US05610177
a) Methyl bis-(1-naphthylmethyl)acetyl-(α-methyl-D-tryptophan)
A solution of 2.0 g (8.6 mmol) of methyl α-methyl-D-tryptophan in 30 mL THF was treated with 3.09 g (8.6 mmol) of bis-(1-naphthylmethyl)acetyl chloride (J. Med. Chem., 35:1032 (1992)) followed by 1.2 mL (8.6 mmol) of Et3N. After stirring at room temperature for 2 days, the solvent was removed under reduced pressure and the residue taken up in EtOAc and washed with 1HCl, H2O, saturated NaHCO3, and saturated NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure gave 4.77 g of the crude product. Recrystallization from CH3CN/H2O gave 4.24 g (88.9% yield) of the product as a cream solid, mp 193°-195° C. The structure was confirmed by NMR and mass spectroscopy.

reactant | methyl α-methyl-D-tryptophan | 8.6 mmol, 2.0 g | CN[C@](CC1=CNC2=CC=CC=C12)(C(=O)O)C | C13H16N2O2
reactant | bis-(1-naphthylmethyl)acetyl chloride | 8.6 mmol, 3.09 g | C1(=CC=CC2=CC=CC=C12)CC(C(=O)Cl)CC1=CC=CC2=CC=CC=C12 | C24H19ClO
reactant | Et3N | 8.6 mmol, 1.2 mL | CCN(CC)CC | C6H15N
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | Methyl bis-(1-naphthylmethyl)acetyl-(α-methyl-D-tryptophan) | 4.24 g, 88.9% yield | CC(C(=O)N[C@](CC1=CNC2=CC=CC=C12)(C(=O)O)C)(CC1=CC=CC2=CC=CC=C12)CC1=CC=CC2=CC=CC=C12 | C37H34N2O3
